US06184419B2
Acetylene was bubbled for 4 hours through a mixture of tBuOK (95.8 g, 0.85 mol) in THF (11) at 0° C. 2-Decalone (100 g, 0,66 mol) was added slowly at RT to the slightly yellow suspension and the resulting mixture was stirred for additional 3.5 hours, quenched with saturated NH4Cl (500 ml) solution, and extracted with MTBE (2×700 ml). The combined organic phases were washed with NH4Cl (500 ml), H2O (2×500 ml), saturated NaCl (500 ml) solution until neutral pH was achieved, dried (MgSO4), and concentrated in vacuo. The crude orange oil was flash distilled (0.01 Torr, 88-90° C.) yielding 100.6 g (86%) of 2-ethynyldecahydro-naphthalen-2-ol.

reactant | Acetylene | C#C | C2H2
reactant | tBuOK | 0.85 mol, 95.8 g | C(C)(C)(C)O[K]
reactant | 2-Decalone | 0,66 mol, 100 g | C1CCC2CC(=O)CCC2C1 | C10H16O
solvent | THF | C1CCOC1 | C4H8O
product | 2-ethynyldecahydro-naphthalen-2-ol | 100.6 g, 86% | C(#C)C1(CC2CCCCC2CC1)O | C12H18O
